US05840732
viii) Synthesis of 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-9-benzyl-1,1-dioxo-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
To a suspension of 0.22 g (5.5 mmol) of 60% oily sodium hydride in 30 ml of N,N-dimethylformamide, 0.83 g (5.5 mmol) of 5-mercaptoimidazo[1,2-a]pyridine was added at room temperature, followed by stirring for 30 minutes. To this mixture, 1.98 g (5 mmol) of 9-benzyl-7-(4-chlorobutyl)-1,1-dioxo-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione and 0.82 g (5.5 mmol) of sodium iodide were added, followed by stirring at 100° C. for 2 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate 3 times. The organic layer was washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, ethyl acetate→ethyl acetate/ethanol=10/1) to yield 1.95 g (78.2%, white powder) of the desired product.

reactant | sodium hydride | 5.5 mmol, 0.22 g | [H-].[Na+]
reactant | 5-mercaptoimidazo[1,2-a]pyridine | 5.5 mmol, 0.83 g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | 9-benzyl-7-(4-chlorobutyl)-1,1-dioxo-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 5 mmol, 1.98 g | C(C1=CC=CC=C1)C=1C(N(C(N2C1S(CCC2)(=O)=O)=O)CCCCCl)=O | C18H21ClN2O4S
reactant | sodium iodide | 5.5 mmol, 0.82 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-9-benzyl-1,1-dioxo-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)CC2=CC=CC=C2)=O | C25H26N4O4S2
